US04022833
Condensation of 4-methyl-1-pentene oxide and hexamethylenediamine affords N,N'-(1,6-hexylene)-bis[2-hydroxy-4-methylpentylamine] (I: R= (CH3)2CHCH2, R' = H, X= (CH2)6, Z= H).

reactant | 4-methyl-1-pentene oxide | CC(CC1CO1)C | C6H12O
reactant | hexamethylenediamine | NCCCCCCN | C6H16N2
product | N,N'-(1,6-hexylene)-bis[2-hydroxy-4-methylpentylamine] | C(CCCCCNCC(CC(C)C)O)NCC(CC(C)C)O | C18H40N2O2
